US08030304B2
7-Chloro-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine
Add 2,5-dimethylpyrazolo[1,5-a]pyrimidin-7-one (20 g, 122 mmol) to 1,4-dioxane (60 mL). Stir the mixture at 22° C. for 10 min and then add N,N-diethylaniline (20.8 mL, 128 mmol). Stir for an additional 5 min and then add phosphorus oxychloride (11.7 mL, 126 mmol) over 15 min. Stir the mixture at 22° C. for 15 min, then heat to 80-85° C. over 35 min and hold the reaction at this temperature for 1.5 h. Add the cooled reaction mixture slowly to a solution of potassium phosphate dibasic (106.7 g, 612.82 mmol) in water (325 mL) cooled to 0-5° C., keeping the temperature below 5° C. during the addition. Stir the mixture at 22° C. and then add methyl-t-butyl ether (150 mL). Separate the organic layer and extract the aqueous layer with methyl-t-butyl ether (2×100 mL). Combine the organic portions, dry over sodium sulfate, filter, and evaporate the solvent. Purify by silica gel chromatography, eluting with hexanes/ethyl acetate (2/1) to provide the title compound as a yellow solid (20.7 g, 88%). ES/MS m/z (35Cl) 182 (M+1)+.

reactant | 2,5-dimethylpyrazolo[1,5-a]pyrimidin-7-one | 122 mmol, 20 g | CC=1NN2C(=NC(=CC2=O)C)C1 | C8H9N3O
reactant | N,N-diethylaniline | 128 mmol, 20.8 mL | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | phosphorus oxychloride | 126 mmol, 11.7 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | potassium phosphate dibasic | 612.82 mmol, 106.7 g | OP(=O)([O-])[O-].[K+].[K+]
solvent | water | 325 mL | O | H2O
solvent | methyl-t-butyl ether | 150 mL | COC(C)(C)C | C5H12O
solvent | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | 7-Chloro-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | 20.7 g, 88% | ClC1=CC(=NC=2N1N=C(C2)C)C | C8H8ClN3
